US04782155
28 g (41 mmol) of 2-(1-benzhydryloxycarbonyl-1-methylethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetic acid (syn-isomer) and 17 g (41 mmol) of benzhydryl 7-amino-3-chloromethyl-3-cephem-4-caroxylate, were dissolved in 300 ml of dry methylene chloride, and 15.6 ml (123 mmol) of N,N-dimethylaniline was added thereto. The mixture was cooled to -10° C., and 4 ml (43 mmol) of phosphorus oxychloride was dropwise added thereto. The reaction solution was stirred at room temperature for 2.5 hours, and then concentrated under reduced pressure. The residue was extracted with ethyl acetate. The organic layer was washed sequentially with 1N hydrochloric acid, a 5% sodium hydrogen carbonate aqueous solution and a saturated sodium chloride aqueous solution, then dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain 36 g (yield: 81%) of benzhydryl 3-chloromethyl-7-[2-(1-benzhydryloxycarbonyl-1-methylethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate (syn-isomer).

reactant | 2-(1-benzhydryloxycarbonyl-1-methylethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetic acid | 41 mmol, 28 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C(C)(ON=C(C(=O)O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C41H35N3O5S
reactant | benzhydryl 7-amino-3-chloromethyl-3-cephem-4-caroxylate | 41 mmol, 17 g | NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C21H19ClN2O3S
reactant | N,N-dimethylaniline | 123 mmol, 15.6 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorus oxychloride | 43 mmol, 4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | benzhydryl 3-chloromethyl-7-[2-(1-benzhydryloxycarbonyl-1-methylethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate | 36 g, yield: 81% | ClCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(C(C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=NOC(C)(C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C62H52ClN5O7S2
